US09079889B2
To a solution of 6-bromo-5-fluoropicolinic acid (1.0 equiv.) in DME and 2M Na2CO3 (3:1, 0.25 M) was added 2,3-difluorophenylboronic acid (1.3 equiv.) and Pd(dppf)Cl2-DCM (0.05 equiv.) in a microwave vial. The vial was heated in the microwave at 120° C. for 30 minutes. The mixture was diluted with ethyl acetate and 1N NaOH was added. The organic phase was separated and extracted three more times with 1N NaOH and once with 6N NaOH. The combined aqueous phases were filtered and acidified to pH 1 by the addition of concentrated HCl and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and concentrated to give 6-(2,3-difluorophenyl)-5-fluoropicolinic acid in 78%. LC/MS=254.1 (M+H), Rt=0.75 min.

reactant | 6-bromo-5-fluoropicolinic acid | 1.0 equiv. | BrC1=C(C=CC(=N1)C(=O)O)F | C6H3BrFNO2
reactant | 2,3-difluorophenylboronic acid | 1.3 equiv. | FC1=C(C=CC=C1F)B(O)O | C6H5BF2O2
solvent | DME | COCCOC | C4H10O2
solvent | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | NaOH | 1N | [OH-].[Na+]
catalyst | Pd(dppf)Cl2 DCM | 0.05 equiv. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 6-(2,3-difluorophenyl)-5-fluoropicolinic acid | FC1=C(C=CC=C1F)C1=C(C=CC(=N1)C(=O)O)F | C12H6F3NO2
